US05942538
Preparation N'-cyclopropylmethyloxy-N-(4-methoxyphenyl)acetyl-2-trifluoromethyl benzamidine (Compound No. 12)
In 80 ml of benzene was dissolved 10.4 g of N'-cyclopropylmethyloxy-2-fluoro-6-trifluoromethylbenzamidine, and to the solution was added 8.9 g of 4-methoxyphenylacetylchloride. The solution was heated under refluxing for 3 hours. After cooling, ethyl acetate was added to the solution, followed by washing with water and drying over anhydrous magnesium sulfate. The organic layer was concentrated under reduced pressure and the residue obtained in crystal was washed with a mixed solvent hexane and ether to thereby obtain 13.7 g of crude crystal. The crystal was then re-crystallized in hexane, thereby affording 11.5 g of the objective compound.m.p. 88-90° C.

reactant | N'-cyclopropylmethyloxy-2-fluoro-6-trifluoromethylbenzamidine | 10.4 g | C1(CC1)CON=C(C1=C(C=CC=C1C(F)(F)F)F)N | C12H12F4N2O
reactant | 4-methoxyphenylacetylchloride | 8.9 g | COC1=CC=C(C=C1)CC(=O)Cl | C9H9ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | N'-cyclopropylmethyloxy-N-(4-methoxyphenyl)acetyl-2-trifluoromethyl benzamidine | 11.5 g | C1(CC1)CON=C(C1=C(C=CC=C1)C(F)(F)F)NC(CC1=CC=C(C=C1)OC)=O | C21H21F3N2O3
